datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([Si:63](C2=CC=CC=C2)(C2=CC=CC=C2)[CH2:62][CH:11]=[CH2:10])C=C1.COC1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1>>COC1=CC=C([CH:20]([CH2:10][CH+:11][CH2:62][Si:63](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:21](=[C:22]=[N-:23])[C:32]#[N:33])C=C1 10,11=10,20;20,21=21,22;22,23=23"
"C1C[N:14]([C:13]2=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]2)CCO1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([N:10]1[CH:11]=[CH:12][C:13](=[N+:14]2CCOCC2)[CH:62]=[CH:61]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[N-:10]1[C:61](=[O:62])[NH:84][C:73](=[O:74])[CH:72]=[CH:71]1>>FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[C:61](=[O:62])[NH:84][C:73](=[O:74])[CH:72]=[CH:71]2)[C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[N:12](C)[N:11]=[CH2:10]>>C[N+:12](C)=[N:11][CH2:10][C:20]([C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"C1=CC=C(C/[N:10]=[CH:62]/C2=CC=CC=C2)C=C1.CC1=CC(C)=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C(C)=C1>>CC1=CC(C)=C([N+]2=C([C:22](=[CH:21][CH:20](/[N+:10](CC3=CC=CC=C3)=[CH:62]\C3=CC=CC=C3)[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[O-:23])N(C)C=C2)C(C)=C1 10=20;20,21=21,22;22,23=23"
"C1C[C:20](=[O:21])CCO1.C[SiH:11]([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1>>C1C[C:20]([H:10])([O-:21])CCO1.C[SiH+:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1 10,11=10,20;20,21=21"
"C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.[N-]=[N+]=NC[C@@H]1CCC[NH:10]1>>C[N:21](C)[CH:20]([NH+:10]1CCC[C@H]1CN=[N+]=[N-])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21"
"CC[O:33][C:22](/[CH:21]=[CH:20]/[C:41](=[O:42])[O:52]CC)=[O:23].CO[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>CC[O:33][C:22](=[CH:21][CH:20]([CH:10]1[CH:11]=[NH+:12][C:62]2=[C:61]1[CH:72]=[C:73](OC)[CH:64]=[CH:63]2)[C:41](=[O:42])[O:52]CC)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[N:10]1CCCC1>>C[N+:10]1([C:20]([C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)CCCC1 10=20
"C/[C:10](=[C:11](\C)[O-:12])[C:61](C)=[O:62].CC[O:33][C:22](/[CH:21]=[CH:20]/C)=[O:23]>>CC[O:33][C:22](=[CH:21][CH:20](C)[C:10](C)([C:11](C)=[O:12])[C:61](C)=[O:62])[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:33][C:22]([CH:21]=[CH2:20])=[O:23].[H][C@]1([C@@H](O)[C:63]2=[CH:62][CH:61]=[N:10][C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C>>[H][C@]1([C@@H](O)[C:63]2=[CH:62][CH:61]=[N+:10]([CH2:20][CH:21]=[C:22]([O-:23])[O:33]CC)[C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C 10=20;20,21=21,22;22,23=23"
F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1.[CH-:10]([N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)[C:81]#[N:82]>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([CH:10]([N+:71]2=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]2)[C:81]#[N:82])[C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10=20
C1=CC=C([C:61]([O-:10])=[O:62])C=C1.C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2>>C1=CC=C([C:61]([O:10][CH:20]([C:31]2=[CH:32][C:33]3=[C:34](OCC3)[CH:35]=[CH:36]2)[C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]2)=[O:62])C=C1 10=20
"C1=CC=C([C+:20]2[S:31]CCC[S:41]2)C=C1.C1=CC=C([P:11](C2=CC=CC=C2)(C2=CC=CC=C2)=[CH:10][CH:61]=[O:62])C=C1>>C1=CC=C([P+:11](C2=CC=CC=C2)(C2=CC=CC=C2)[CH:10]([C:20]2(C3=CC=CC=C3)[S:31]CCC[S:41]2)[CH:61]=[O:62])C=C1 10,11=10,20"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:41]1=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]1)[C:22]2=[O:23].[N-]=[N+]=NC[C@@H]1CCC[NH:10]1>>[N-]=[N+]=NC[C@@H]1CCC[NH+:10]1[CH:20]([C:21]1=[C:22]([O-:23])C2=C(C=CC=C2)[C:32]1=[O:33])[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1 10=20;20,21=21,22;22,23=23"
"CC(C)(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)(C)C)=[O:23].C[S+:61](C)[O-:10]>>CC(C)(C)[O:33][C:22](=[N:21][N:20]([O:10][S+:61](C)C)[C:41](=[O:42])[O:43]C(C)(C)C)[O-:23] 10=20;20,21=21,22;22,23=23"
